US04771050
To a stirred, ice-cooled mixture of 2-amino-6-isopropylphenol hydrochloride (15.0 g), ethyl acetate (200 ml), water (100 ml), and sodium bicarbonate (20.0 g), was added dropwise a solution of (R)-2-bromo-3methylbutyryl chloride (16.0 g) in ethyl acetate (30 ml). The whole was stirred for 30 minutes, and the ethyl acetate layer was separated, washed with water and dried over MgSO4. Removal of the solvent gave (R)-2-(2-bromo-3-methylbutyryl)amino-6-isopropylphenol as crystals (19.1 g, 76.1%). Recrystallization from isopropyl ether afforded colorless needles, mp 108°-109° C. [α]D23 +44.8° (c=0.82, MeOH).

reactant | 2-amino-6-isopropylphenol hydrochloride | 15.0 g | Cl.NC1=C(C(=CC=C1)C(C)C)O
reactant | water | 100 ml | O | H2O
reactant | sodium bicarbonate | 20.0 g | C([O-])(O)=O.[Na+]
reactant | (R)-2-bromo-3methylbutyryl chloride | 16.0 g | Br[C@@H](C(=O)Cl)C(C)C | C5H8BrClO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (R)-2-(2-bromo-3-methylbutyryl)amino-6-isopropylphenol | 19.1 g, 76.1% | Br[C@@H](C(=O)NC1=C(C(=CC=C1)C(C)C)O)C(C)C | C14H20BrNO2
